X1 (N1 N0 N5 N3) amplifier
C1 N2 N5
S1 (N0 N1) switch_ideal
C2 N3 N4
S2 (N4 LABEL_NET_0) switch_ideal
S3 (N2 LABEL_NET_1) switch_ideal
S4 (N5 LABEL_NET_2) switch_ideal
S5 (N1 N2) switch_ideal
S6 (N0 N4) switch_ideal
S7 (N3 N5) switch_ideal
S8 (N3 N3) switch_ideal
