A1 (Vop Von N5 N3) amplifier
C1 N2 N5
S1 (Von Vop) switch_ideal
C2 N3 N4
S2 (N4 Vin) switch_ideal
S3 (N2 Vip) switch_ideal
S4 (N5 VB6) switch_ideal
S5 (Vop N2) switch_ideal
S6 (Von N4) switch_ideal
S7 (N3 N5) switch_ideal
S8 (N3 N3) switch_ideal
